US08138197B2
Production of 1′-{[3,5-Diethoxy-4-(2-fluoropyridin-4-yl)phenyl]carbonyl}-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one
Et3N (290 μL), HOBT (160 mg) and WSC hydrochloride (200 mg) were added to a DMF (8 mL) solution of 3,5-diethoxy-4-(2-fluoropyridin-4-yl)benzoic acid (266 mg) and 6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride (325 mg), and stirred overnight at room temperature. Water was added to the reaction liquid, the formed solid was taken out through filtration, and the solid was washed with water and ether. The solid was dried under reduced pressure to obtain the title compound. 1H-NMR (400 MHz, DMSO-d6) δ: 8.42 (1H, d, J=4.0 Hz), 8.25-8.20 (2H, m), 7.32 (1H, d, J=8.0 Hz), 7.29-7.26 (1H, m), 7.10 (1H, s), 6.76 (2H, s), 4.32-4.18 (1H, m), 4.08 (4H, q, J=8.0 Hz), 3.64-3.20 (3H, m), 2.98 (2H, s), 2.10-1.75 (4H, m), 1.17 (6H, t, J=8.0 Hz). MS [M+H]+=573.

reactant | HOBT | 160 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC hydrochloride | 200 mg | CCN=C=NCCCN(C)C.Cl
reactant | 3,5-diethoxy-4-(2-fluoropyridin-4-yl)benzoic acid | 266 mg | C(C)OC=1C=C(C(=O)O)C=C(C1C1=CC(=NC=C1)F)OCC | C16H16FNO4
reactant | 6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride | 325 mg | Cl.N1N=NN=C1C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O
solvent | Water | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | Et3N | 290 μL | CCN(CC)CC | C6H15N
product | 1′-{[3,5-Diethoxy-4-(2-fluoropyridin-4-yl)phenyl]carbonyl}-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one | C(C)OC=1C=C(C=C(C1C1=CC(=NC=C1)F)OCC)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C2=NN=NN2 | C30H29FN6O5
